### PR TITLE
[Merged by Bors] - refactor: golf proof using lmarginal

### PR DESCRIPTION
**Pull request by fpvandoorn**
Co-authored-by: Heather Macbeth [25316162+hrmacbeth@users.noreply.github.com](mailto:25316162+hrmacbeth@users.noreply.github.com)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean [hunk 1]
```diff
@@ -376,44 +377,24 @@ theorem smul_map_diagonal_volume_pi [DecidableEq ι] {D : ι → ℝ} (h : det (
...
+  refine (pi_eq fun s hs ↦ ?_).symm
+  have h2s : MeasurableSet (univ.pi s) := .pi countable_univ fun i _ ↦ hs i
+  simp_rw [← pi_pi, ← lintegral_indicator_one h2s]
+  rw [lintegral_map (measurable_one.indicator h2s) ht, volume_pi]
+  refine lintegral_eq_of_lmarginal_eq {t.i} ((measurable_one.indicator h2s).comp ht)
+    (measurable_one.indicator h2s) ?_
+  simp_rw [lmarginal_singleton]
+  ext x
+  cases t with | mk t_i t_j t_hij t_c =>
+  simp [transvection, mulVec_stdBasisMatrix]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Lebesgue/Basic.lean:395]: nonterminal simp.

**Review by sgouezel — COMMENTED** [review]
Nice!
bors d+

**Comment by fpvandoorn** [comment]
bors merge
